US03959322
Add dl-17α-ethynyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol (7 g) in benzene (75 ml) to a suspension of prehydrogenated 2% palladised calcium carbonate (3 g) in benzene (50 ml), and shake in an atmosphere of hydrogen until two molecular equivalents of hydrogen (1.030 ml) have been absorbed. Filter the catalyst, evaporate the solvent and recrystallize the residue twice from methanol to obtain dl-17α-ethyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol (4.5 g), m.p. 105°-120°; ultraviolet absorption maximum 278 mμ (ε12,000); infrared absorption peaks at 295 μ, 6.25 μ.

reactant | 17α-ethynyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol | 7 g | C(#C)[C@]1([C@]2(C)[C@@H](CC1)C=1CCC=3C=C(C=CC3C1CC2)OC)O | C21H24O2
reactant | calcium carbonate | 3 g | C([O-])([O-])=O.[Ca+2]
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1.030 ml | [H][H] | H2
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 17α-ethyl-3-methoxyestra-1,3,5(10),8-tetraen-17-ol | 4.5 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)C=1CCC=3C=C(C=CC3C1CC2)OC)O | C21H28O2
